Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Respiratory Distress
 
Major Surgical or Invasive Procedure:
Laryngoscopy with ENT.

 
History of Present Illness:
___ year old with history of OSA on CPAP and GERD presenting with 
from home with acute onset respiratory distress in the setting 
of recent URI symptoms.  Pt presented to his PCP's office ___ 
with complaint of dry cough, body aches, headaches, stuffy nose 
and feeling tired over the prior two days.  Given that his 
mother was recently hospitalized at ___ with influenza, pt was 
started on Tamiflu 75mg BID empirically with plans for a 5 day 
course.  In addition, he was started on an albuterol MDI given 
apparent improvement of symptoms in the office with nebs.  Pt 
subsequently returned home, and in the evening developed acute 
onset respiratory distress while watching TV.  He reports a 
sensation of difficulty breathing and feeling that he was going 
to die.  Pt reports that he has experienced this sensation 
before, however it was in the setting of being inebriated.  Due 
to his difficulty breathing, he presented to ___ ED.       
  
In the ED, initial vitals were 98.5 111 143/86 36 100% on NRB.  
Initial exam was concerning for stridor.  Labs were notable for 
WBC 5.1, H/H 14.6/40.8, plts 173, Na 137, HCO3 22, BUN 16, Cr 
0.9, lactate 2.9, positive influenza A PCR, VBG 7.44/36/28, 
clean UA, Chest X-ray did not demonstrate an acute process, and 
CT Neck w/contrast was largely unremarkable. Pt was seen by ENT 
in the ED, and fiberoptic exam demonstrated intermittent 
inspiratory stridor with bilateral vocal fold hypomobility 
without mass lesions.  Pt received racemic epinephrine, duonebs, 
and was started on heliox.  In addition, he received benadryl 
50mg IV x 1, famotidine 20mg IV x 1, methylprednisolone 125mg IV 
x 1, and 1L NS.  Pt was subsequently transferred to the ICU for 
airway monitoring.     
   
On arrival to the MICU, 98.9 97 137/78 18 97% on 3L.  Pt reports 
continual cough with associated sore throat, however states that 
he feels much better, and states that his breathing is much 
improved.

 
Past Medical History:
OSA on CPAP
GERD
LBP
Septoplasty
Ulnar neuropathy
Testicular pain
Venous insufficiency
Alcohol induced gastritis
LPR

 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION PE:

Vitals- 98.9 97 137/78 18 97% on 3L 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, mildly tender to deep palpation, non-distended, bowel 
sounds present, no rebound tenderness or guarding, no 
organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema    

DISCHARGE PE:

Unchanged
 
Pertinent Results:
ADMISSION LABS:

___ 12:00AM BLOOD WBC-5.1 RBC-4.68 Hgb-14.6 Hct-40.8 MCV-87 
MCH-31.1 MCHC-35.6* RDW-12.6 Plt ___
___ 12:00AM BLOOD Neuts-57.4 ___ Monos-11.9* 
Eos-0.7 Baso-0.2
___ 12:00AM BLOOD Glucose-107* UreaN-16 Creat-0.9 Na-137 
K-3.8 Cl-101 HCO3-22 AnGap-18
___ 12:08AM BLOOD ___ pO2-28* pCO2-36 pH-7.44 
calTCO2-25 Base XS-0
___ 12:08AM BLOOD Lactate-2.9*
___ 12:08AM BLOOD O2 Sat-53
___ 01:10AM URINE Color-Straw Appear-Clear Sp ___
___ 01:10AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

DISCHARGE LABS:

No New

MICRO:
FluA positive
Blood Cx pending

STUDIES/IMAGING:

CT Neck:

Evaluation of the aerodigestive tract demonstrates no exophytic 
mass, nor 
areas of focal mass effect. Evaluation of the cervical lymph 
chains 
demonstrate no pathologic lymphadenopathy by imaging criteria. 
The visualized salivary glands are unremarkable in appearance. 
No thyroid mass is seen. Neck vessels are patent. Upper lung 
fields are clear. No bony abnormality is seen.  The imaged skull 
base is unremarkable. Specifically, no evidence of enhancing 
tumor near the jugular foramen is identified. 

CXR:

The lungs are well-expanded and clear. The cardiomediastinal 
silhouette is unremarkable. There is no pleural effusion, 
pulmonary edema, pneumothorax, or focal consolidation worrisome 
for pneumonia. Bony spurring is noted at the bilateral AC 
joints. 

 
Brief Hospital Course:
___ year old male with a history of OSA on CPAP and GERD 
presenting with symptoms consistent with viral URI and stridor 
on exam found to be flu positive with evidence of vocal cord 
hypomotility on fiberoptic exam

# Vocal cord hypomotility: Vocal cord hypomotility seen on 
fiberoptic exam, however due to concern for possible bilateral 
vocal cord paresis, pt was admitted to the ICU for airway 
monitoring.  The patient's symptoms were completely resolved by 
the time he reached the ICU. ENT repeated a fiberoptic exam 
which was not notable for further vocal cord dysfunction and 
they felt that should treat patient's underlying GERD. 

# Influenza A:  Pt found to be flu A positive at ___'s office. 
Continued Tamiflu 75mg PO BID x 5 days. Patient will complete 
this course after discharge (last dose ___.

# OSA: Continued home CPAP

# GERD: Continued home omeprazole

TRANSITIONAL:
- continue tamiflu through ___
- f/u with ENT within ___ weeks

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN Wheezing 
2. clotrimazole-betamethasone ___ % topical BID 
3. Omeprazole 20 mg PO BID 
4. OSELTAMivir 75 mg PO Q12H 
5. guaiFENesin 100 mg/5 mL oral Q6HRS:PRN Cough 

 
Discharge Medications:
1. Omeprazole 20 mg PO BID 
2. OSELTAMivir 75 mg PO Q12H 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN Wheezing 
4. clotrimazole-betamethasone ___ % topical BID 
5. guaiFENesin 100 mg/5 mL oral Q6HRS:PRN Cough 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Vocal Cord Dysfunction

Secondary Diagnosis:
- Influenza
- Gastroesophageal Reflux Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your stay at ___.  
You presented with cough and sore throat and were found to have 
the flu.  In addition, there was some concern for vocal cord 
dysfunction, and as a result you were hospitalized in the ICU. 
ENT rescoped your vocal cords and did not see any further 
dysfunction. We feel that your symptoms may be related to 
reflux.

Also, you also have the flu. You should consider yourself 
contagious until you have been 24 hours without a fever. You 
will also need to continue your tamiflu for 5 days as prescribed 
by your primary care doctor.

Sincerely, 

Your ___ Team
 
Followup Instructions:
___